US05674470
reacting 1,4,7,10-tetraazacyclododecane with dimethylformamidedimethylacatal in the presence of benzene to yield 1,4,7,10 tetraazatricyclo(5.5.1.0)tridecane.

reactant | 1,4,7,10-tetraazacyclododecane | N1CCNCCNCCNCC1 | C8H20N4
reactant | benzene | C1=CC=CC=C1 | C6H6
product | tridecane | CCCCCCCCCCCCC | C13H28
